US09034866B2
Into a 20-L 4-necked round-bottom flask purged and maintained with an inert atmosphere of argon was placed 7-Bromo-8-fluoro-3,4-dihydro-2H-benzo[b]oxepin-5-one (1168 g, 4.51 mol, 1.00 equiv) and dichloromethane (8 L), followed by the addition of Br2 (724.3 g, 4.53 mol, 1.00 equiv) dropwise with stirring at −20° C. over 90 min. The resulting solution was stirred at −20° C. for 30 min and at room temperature for 3 h. The reaction was then quenched by the addition of 6000 mL of saturated aqueous Na2SO3 at 0° C. and extracted with 4×2 L of dichloromethane. The combined organic layers were washed with 2×3000 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to afford 1170 g (77%) of 4,7-dibromo-8-fluoro-2,3,4,5-tetrahydro-1-benzoxepin-5-one as a yellow solid.

reactant | 7-Bromo-8-fluoro-3,4-dihydro-2H-benzo[b]oxepin-5-one | 4.51 mol, 1168 g, 1.00 equiv | BrC1=CC2=C(OCCCC2=O)C=C1F | C10H8BrFO2
reactant | Br2 | 4.53 mol, 724.3 g, 1.00 equiv | BrBr | Br2
solvent | dichloromethane | 8 L | ClCCl | CH2Cl2
product | 4,7-dibromo-8-fluoro-2,3,4,5-tetrahydro-1-benzoxepin-5-one | 1170 g, 77% | BrC1CCOC2=C(C1=O)C=C(C(=C2)F)Br | C10H7Br2FO2
